US08106083B2
The benzylether [5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-(2-(methylamino)ethyl)-1H-indol-5-yl)-4H-1,2,4-triazol-3-ol; 294 mg, 0.5 mmol) was dissolved in 6 ml degassed ethyl acetate and ethanol (1:1). 50 mg Pd/C (10%) was added and the mixture stirred under hydrogen (balloon) at rt for 6 h. After filtration the solvent was removed and the crude purified by chromatography on silica with DCM/MeOH (5-20%)/NH4OH (0.5%) to yield 203 mg (0.5 mmol) 4-(5-hydroxy-4-(1-(2-(methylamino)ethyl)-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)-6-isopropylbenzene-1,3-diol. This amine (203 mg) was added to 4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)butanoic acid (110 mg, 0.6 mmol), EDC (154 mg, 0.8 mmol) and HOBt (108 mg, 0.8 mmol) in 9 ml DCM/DMF (2:1) at rt. The mixture was stirred for 12 h and then ethyl acetate and water added. The aq. Phase was extracted twice with ethyl acetate and the combined organic extracts washed with brine and dried over MgSO4. The crude was purified by chromatography on silica with DCM/MeOH (0-8%) to yield 133 mg (0.23 mmol) N-(2-(5-(3-(2,4-dihydroxy-5-isopropylphenyl)-5-hydroxy-4H-1,2,4-triazol-4-yl)-1H-indol-1-yl)ethyl)-4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)-N-methylbutanamide.

reactant | benzylether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | 5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-(2-(methylamino)ethyl)-1H-indol-5-yl)-4H-1,2,4-triazol-3-ol | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C=1N(C(=NN1)O)C=1C=C2C=CN(C2=CC1)CCNC | C36H37N5O3
product | 4-(5-hydroxy-4-(1-(2-(methylamino)ethyl)-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)-6-isopropylbenzene-1,3-diol | 0.5 mmol, 203 mg | OC=1N(C(=NN1)C1=C(C=C(C(=C1)C(C)C)O)O)C=1C=C2C=CN(C2=CC1)CCNC | C22H25N5O3
